US07402595B2
1-(4-methanesulfonylbenzylamino)butan-2-ol
A solution (6 ml) of 4-methanesulfonylbenzylamine (3.0 g) and 1,2-epoxybutane (1.1 g) in 2-propanol was heated under reflux for 12 hrs. The reaction mixture was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (ethyl acetate-ethyl acetate:methanol=10:1) to give the title compound (1.7 g).

reactant | 4-methanesulfonylbenzylamine | 6 ml, 3.0 g | CS(=O)(=O)C1=CC=C(CN)C=C1 | C8H11NO2S
reactant | 1,2-epoxybutane | 1.1 g | O1CC1CC | C4H8O
solvent | 2-propanol | CC(C)O | C3H8O
product | 1-(4-methanesulfonylbenzylamino)butan-2-ol | 1.7 g | CS(=O)(=O)C1=CC=C(CNCC(CC)O)C=C1 | C12H19NO3S
